US08754079B2
58.3 Racemic 4-[4-Fluoro-2-((trans)-3-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
Prepared analogously to example 1.4 from 5.6 g racemic racemic 4-[4-Fluoro-2-((trans)-3-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid and 100 ml ammonia (0.5 M in THF).

reactant | racemic racemic 4-[4-Fluoro-2-((trans)-3-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 5.6 g | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@@H]2C[C@H](CCC2)O | C20H20FN3O4S
reactant | ammonia | 0.5 M, 100 ml | N | H3N
product | Racemic 4-[4-Fluoro-2-((trans)-3-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)O[C@@H]2C[C@H](CCC2)O | C20H21FN4O3S
